US03953605
Preparation of phenoxycarbonylmethyltetradecyldimethyl ammonium bromide:
A mixture of 55 g (0.26 mol) phenyl bromoacetate and 62 g (0.26 mol) of tetradecyldimethylamine was allowed to stand at room temperature for three days. The resultant crystalline mass was washed well with ether and dried to 114 g. Recrystallized from ethyl acetate and vacuum dried, the compound melted at 87°-91.5°.

reactant | phenyl bromoacetate | 0.26 mol, 55 g | BrCC(=O)OC1=CC=CC=C1 | C8H7BrO2
reactant | tetradecyldimethylamine | 0.26 mol, 62 g | C(CCCCCCCCCCCCC)N(C)C | C16H35N
product | phenoxycarbonylmethyltetradecyldimethyl ammonium bromide | [Br-].O(C1=CC=CC=C1)C(=O)C[N+](C)(C)CCCCCCCCCCCCCC | InChI=1S/C24H42NO2.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-18-21-25(2,3)22-24(26)27-23-19-16-15-17-20-23;/h15-17,19-20H,4-14,18,21-22H2,1-3H3;1H/q+1;/p-1
